US07332529B2
Synthesis of 3,5-diundecoxybenzyl Azide
3,5-diundecoxybenzyl chloride (13.5 g, 30.1 mmol) was dissolved in DMF (50 mL) in a 250 mL RBF. Sodium azide (3.94 g, 60.2 mmol) and a magnetic stir bar were added to the RBF. A heating mantel was used to gently heat the reaction mixture. After 1 hour, thin layer chromatography indicated that no starting material was present. The contents of the RBF were transferred to a separatory funnel. Ether (250 mL) and distilled H2O (250 mL) were added to the funnel. The aqueous layer was washed 2 times with ether (250 mL). The ether layers were combined and washed 2 times with saturated ammonium chloride solution (125 mL) and once with saturated sodium chloride solution (125 mL). The ether layer was then dried with magnesium sulfate, gravity filtered and concentrated using rotary evaporation. The resulting light yellow oil was then placed under high vacuum where it solidified. This produced a 13.3 g yield or a 97.1% yield of the derivative. The NMR characterization data for the derivative is as follows. 1NMR (300 MHz, CDCl3): 0.88 (t, J=6.3, 6H, CH2CH3), 1.21-1.44 (m, 32H, CH2(CH2)7), 1.77 (p, J=6.6, 4H, OCH2CH2), 3.93 (t, J=6.6, 4H, OCH2), 4.24 (s, 2H, ArCH2Cl), 6.41-6.43 (m, 2H, ArH). 13C NMR (75 MHZ, CDCl3): 14.22, 22.79, 26.13, 29.33, 29.44, 29.49, 29.68, 32.00, 55.00, 68.16, 101.07, 106.50, 137.45, 160.68.

reactant | 3,5-diundecoxybenzyl chloride | 30.1 mmol, 13.5 g | C(CCCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCCC | C29H51ClO2
reactant | Sodium azide | 60.2 mmol, 3.94 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3,5-diundecoxybenzyl Azide | 97.1% yield | C(CCCCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1)OCCCCCCCCCCC | C29H51N3O2
